US07365095B2
To a solution of 2′,6′-dichloro-1,1′-biphenyl-2-ol (5.4 g, 0.0226 mol) in acetone (100 mL) was added potassium carbonate (3.75 g, 0.0271 mol) followed by allyl bromide (2.58 mL, 0.0298 mol) and the reaction mixture heated to reflux for 24 hours. The cooled reaction mixture was poured into water (300 mL), the mixture stirred vigorously for 1 hour then extracted with ethyl acetate (300 mL). The separated organic extract was washed with water (200 mL) and saturated brine (200 mL), dried over magnesium sulfate and concentrated under reduced pressure to afford a yellow syrup. Purification by flash chromatography using a solvent gradient of 1 to 2% ethyl acetate in hexane gave 5.84 g (93%) of 2′-(allyloxy)-2,6-dichloro-1,1′-biphenyl as a colorless oil. MS (EI) m/z 278 (M+).

reactant | 2′,6′-dichloro-1,1′-biphenyl-2-ol | 0.0226 mol, 5.4 g | ClC1=C(C(=CC=C1)Cl)C=1C(=CC=CC1)O | C12H8Cl2O
reactant | potassium carbonate | 0.0271 mol, 3.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.0298 mol, 2.58 mL | C(C=C)Br | C3H5Br
reactant | water | 300 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2′-(allyloxy)-2,6-dichloro-1,1′-biphenyl | 5.84 g, 93% | C(C=C)OC1=C(C=CC=C1)C1=C(C=CC=C1Cl)Cl | C15H12Cl2O
